US08975282B2
Step 2) 4-(4-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)-2-fluorophenoxy)picolinamide
To a suspension of N-(3-fluoro-4-hydroxyphenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide (2.2 g, 6.4 mmol), 4-chloropicolinamide (1 g, 6.39 mmol) in DMSO (12 mL) was added NaH (615 mg, 12.3 mmol, 50% dispersed in mineral oil). The reaction was stirred at 160° C. for 20 h, then cooled to rt, and diluted with H2O (70 mL). The mixture was extracted with EtOAc (100 mL×3). The combined organic phases were washed with brine (100 mL), dried over Na2SO4 and concentrated in vacuo. The residue was purified by a silica gel column chromatography (PE/EtOAc (v/v)=1/4) to give the title compound as a white solid (0.85 g, 29%).

reactant | N-(3-fluoro-4-hydroxyphenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 6.4 mmol, 2.2 g | FC=1C=C(C=CC1O)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O | C18H16FN3O3
reactant | 4-chloropicolinamide | 6.39 mmol, 1 g | ClC1=CC(=NC=C1)C(=O)N | C6H5ClN2O
reactant | NaH | 12.3 mmol, 615 mg | [H-].[Na+]
solvent | DMSO | 12 mL | CS(=O)C | C2H6OS
solvent | H2O | 70 mL | O | H2O
product | 4-(4-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)-2-fluorophenoxy)picolinamide | 0.85 g, 29% | CN1N(C(C(=C1C)C(=O)NC1=CC(=C(OC2=CC(=NC=C2)C(=O)N)C=C1)F)=O)C1=CC=CC=C1 | C24H20FN5O4
